US08629137B2
1-{1-[6-(4-hydroxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
50 mg palladium/charcoal (10%) were added to 390 mg (0.7 mmol) 1-{1-[6-(4-benzyloxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one in 50 mL MeOH and the mixture was hydrogenated for 40 min in a 5 psi hydrogen atmosphere at RT. The catalyst was removed by suction filtering and the filtrate was evaporated down. The residue was triturated with some MeOH, suction filtered and washed with diethyl ether. The suction filtered catalyst was decocted with 120 mL MeOH for 1 h, filtered hot and the filtrate was evaporated down. The residue was triturated with a little MeOH, suction filtered and dried. The two batches of solid were combined and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-{1-[6-(4-benzyloxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 0.7 mmol, 390 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC3=NC=CC=C32)=O)C=C1C)C | C31H30N6O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | palladium/charcoal | 50 mg | [Pd] | Pd
product | 1-{1-[6-(4-hydroxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | OC1=C(C=C(C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC3=NC=CC=C32)=O)C=C1C)C | C24H24N6O3
